* C:\users\vito\Documents\facu\4y\2Q\E4\tps\tp2\sim\Flyback.asc
Q1 N013 N017 0 0 BC547C
Q2 0 N013 N014 0 2N2907
Q3 N006 N013 N014 0 2N2222
V1 N016 0 PULSE(0 5 0 1n 1n {D*T} {T})
R2 N016 N017 470
C1 N016 N017 1n
R3 N006 N013 1k
C2 N006 0 1µ
R4 N014 N015 22
M1 N011 N015 0 0 STW11NM80
V2 N004 0 300
D1 N001 N003 MUR460
V3 N006 0 15
C3 N003 N005 10µ
R6 N003 N005 4
L1 N011 N007 1570µ
L2 N001 N005 9µ621
D2 N008 N010 MUR460
C4 N010 0 10µ
R7 N010 0 20
L3 N008 0 16µ464
C5 N012 0 20p
D4 N011 N012 MUR460
R1 N011 N012 120k
Ld N004 N007 1µ
C6 N002 N003 120p
R5 N002 N001 100
C8 N009 N010 120p
R8 N009 N008 1k
R9 N005 0 1Meg
C7 N005 0 1n
.model D D
.lib C:\users\vito\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\vito\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\vito\AppData\Local\LTspice\lib\cmp\standard.mos
.param f=100k D=0.65 T=1/f
.tran 0 1m 0 10n
K1 L1 L2 L3 1
.backanno
.end
