* C:\users\vito\Documents\facu\4y\2Q\E4\tps\tp2\sim\Flyback.asc
Q2 0 N011 N012 0 2N2907
Q3 N005 N011 N012 0 2N2222
V1 N011 0 PULSE(0 10 0 1n 1n {D*T} {T})
R3 N005 N011 1k
C2 N005 0 1µ
R4 N012 N013 22
M1 N007 N013 0 0 STW11NM80
V2 N003 0 300
D1 N001 N002 MUR460
V3 N005 0 15
C3 N002 N004 10µ
R6 N002 N004 4
L1 N007 N006 1570µ
L2 N001 N004 9µ621
D2 N009 N010 MUR460
C4 N010 0 10µ
R7 N010 0 20
L3 N009 0 16µ464
C5 N008 0 20p
D4 N007 N008 MUR460
R1 N007 N008 58k
Ld N003 N006 1µ
R9 N004 0 1Meg
C7 N004 0 1n
.model D D
.lib C:\users\vito\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\vito\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\vito\AppData\Local\LTspice\lib\cmp\standard.mos
.param f=100k D=0.65 T=1/f
.tran 0 1m 0 10n
K1 L1 L2 L3 1
.backanno
.end
