* C:\users\vito\Documents\facu\4y\2Q\E4\tps\tp2\sim\Flyback.asc
Q2 0 N009 N010 0 2N2907
Q3 N004 N009 N010 0 2N2222
V1 N009 0 PULSE(0 10 0 1n 1n {D*T} {T})
R3 N004 N009 1k
C2 N004 0 1µ
R4 N010 N011 22
M1 N007 N011 0 0 STW11NM80
V2 N001 0 310
V3 N004 0 15
C3 N003 0 11µ
R6 N003 0 2.4
L1 N007 N001 1m7
L2 N002 0 10µ
C4 N006 0 11µ
R7 N006 0 1k8
L3 N005 0 17µ
C5 N008 0 220p
R1 N007 N008 10k
Ld N001 N001 16µ
D1 N002 N003 D
D2 N005 N006 D
D3 N007 N008 MUR460
.model D D
.lib C:\users\vito\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\vito\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\vito\AppData\Local\LTspice\lib\cmp\standard.mos
.param f=100k D=0.35 T=1/f
.tran 0 500u 0
K1 L1 L2 L3 1
* .step param Cs 20p 2n 300p
.backanno
.end
